US06759534B2
6-(5-Chloro-3-methyl-benzofuran-2-ylsulfanyl)-2H-pyridazin-3-one
Sodium methoxide (299 mL, 1.31 mol, 5 equiv) was added to a slurry of 3-chloro-6-(5-chloro-3-methyl-benzofuran-2-ylsulfanyl)-pyridazine (the title compound of Example One) in methanol (500 mL, 6.1 vol). The resultant mixture was heated at 50° C. for five hours to provide, 3-(5-chloro-3-methyl-benzofuran-2-ylsulfanyl)-6-methoxy-pyridazine, which was not isolated. The reaction mixture was cooled to room temperature and concentrated hydrochloric acid (12N, 329 mL, 3.95 mol, 15 equiv) was added. The reaction mixture was heated at reflux for 15 hours and then cooled to room temperature. Water (400 mL) was added to the slurry and the mixture was cooled to 0° C. for 30 minutes. The solids were collected by filtration, dried under vacuum, and repulped in dichloromethane (600 mL, 8 vol) and isopropyl ether (150 mL, 2 vol) to afford the title compound of Example Two (71 g, 92%) as an off-white solid.

reactant | Sodium methoxide | 1.31 mol, 299 mL, 5 equiv | C[O-].[Na+]
reactant | 3-chloro-6-(5-chloro-3-methyl-benzofuran-2-ylsulfanyl)-pyridazine | ClC=1N=NC(=CC1)SC=1OC2=C(C1C)C=C(C=C2)Cl | C13H8Cl2N2OS
solvent | methanol | 500 mL | CO | CH4O
product | 6-(5-Chloro-3-methyl-benzofuran-2-ylsulfanyl)-2H-pyridazin-3-one | ClC=1C=CC2=C(C(=C(O2)SC=2C=CC(NN2)=O)C)C1 | C13H9ClN2O2S
